US03947469
In a one liter three-necked reaction flask equipped with a water-separator device (Dean-Stark) and a reflux condenser there are added 700 ml. of benzene, 54 g (0.5 mol) of 1,3-propanedithiol 46 g (0.5 mol) of monohydrated glyoxylic acid and 0.5 g (2.9 mmol) toluene-p-sulfonic acid. The mixture is heated to reflux with stirring. After 18 ml. (1 mol) water has been condensed, the hot solution is decanted from the precipitate formed on the container walls. The solvent is evaporated under reduced pressure and the residue is crystallized from toluene to yield 1,3-dithiane-2-carboxylic acid.

reactant | water | O | H2O
reactant | 1,3-propanedithiol | 0.5 mol, 54 g | C(CCS)S | C3H8S2
reactant | toluene-p-sulfonic acid | 2.9 mmol, 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | 1 mol | O | H2O
reactant | benzene | C1=CC=CC=C1 | C6H6
product | 1,3-dithiane-2-carboxylic acid | S1C(SCCC1)C(=O)O | C5H8O2S2
